US08283366B2
Preparation of 5-((4-fluorophenyl)(hydroxy)methyl)-N-hydroxy-N,2,2-trimethyl-4H-[1,3]dioxino[4,5-c]pyridine-8-carboxamide
1.8 mL of lithium bis(trimethylsilyl)amide solution (1.809 mmol, 9 eq, 1M in tetrahydrofuran) was added to 0.041 g of N-methylhydroxylamine hydrochloride (0.249 mmol, 1.1 eq.) in 5.0 mL of tetrahydrofuran (−78° C.) and stirred for 10 min at 78° C. 0.070 g of methyl 5-((4-fluorophenyl)(hydroxy)methyl)-2,2-dimethyl-4H-[1,3]dioxino[4,5-c]pyridine-8-carboxylate solution (0.201 mmol, 1 eq.) in 3.0 mL of tetrahydrofuran was then added followed by stirring for 30 min at −78° C. Water was then added to the reaction mixture followed by extraction with ethyl acetate. The resulting organic phases were then combined and concentrated under reduced pressure yielding 0.01 g of crude product (14% yield) as a white solid.

reactant | lithium bis(trimethylsilyl)amide | 1.809 mmol, 1M, 1.8 mL, 9 eq | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | N-methylhydroxylamine hydrochloride | 0.249 mmol, 0.041 g, 1.1 eq. | Cl.CNO
reactant | methyl 5-((4-fluorophenyl)(hydroxy)methyl)-2,2-dimethyl-4H-[1,3]dioxino[4,5-c]pyridine-8-carboxylate | 0.201 mmol, 0.070 g, 1 eq. | FC1=CC=C(C=C1)C(C1=C2C(=C(N=C1)C(=O)OC)OC(OC2)(C)C)O | C18H18FNO5
reactant | Water | O | H2O
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
product | 5-((4-fluorophenyl)(hydroxy)methyl)-N-hydroxy-N,2,2-trimethyl-4H-[1,3]dioxino[4,5-c]pyridine-8-carboxamide | 0.01 g, 14% yield | FC1=CC=C(C=C1)C(C1=C2C(=C(N=C1)C(=O)N(C)O)OC(OC2)(C)C)O | C18H19FN2O5
